US06521643B1
To a solution of 3-amino-1-(4-methylpyridin-2-yl)pyrrolidine (177 mg) and N-(tert-butoxycarbonyl)-N′-ethylthiourea (245 mg) in N,N-dimethylformamide (5 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (230 mg), and the mixture was stirred for 18 hours. The mixture was diluted with ethyl acetate, washed with water three times and brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, 5% methanol in dichloromethane) to give N-(tert-butoxycarbonyl)-N′-ethyl-N″-(1-(4-methylpyridin-2-yl)-pyrrolidin-3-yl)guanidine (290 mg).

reactant | 3-amino-1-(4-methylpyridin-2-yl)pyrrolidine | 177 mg | NC1CN(CC1)C1=NC=CC(=C1)C | C10H15N3
reactant | N-(tert-butoxycarbonyl)-N′-ethylthiourea | 245 mg | C(C)(C)(C)OC(=O)NC(=S)NCC | C8H16N2O2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 230 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(tert-butoxycarbonyl)-N′-ethyl-N″-(1-(4-methylpyridin-2-yl)-pyrrolidin-3-yl)guanidine | 290 mg | C(C)(C)(C)OC(=O)NC(=NC1CN(CC1)C1=NC=CC(=C1)C)NCC | C18H29N5O2
